US04753941
The procedure is similar to that described in Example 2, but starting with 1,3-dithiole-4-carboxylic acid (4.6 g), N,N'-carbonyldiimidazole (7.5 g) and 2-amino-7-chloro-1,8-naphthyridine (4.2 g). The product obtained by precipitation in water (4.8 g) is taken up with boiling acetonitrile (300 cc), the insoluble material is removed by filtration, and the filtrate is poured into water (500 cc). The precipitate obtained is purified by recrystallization in an acetonitrile/water (5:2 by volume) mixture (650 cc). N-(7-Chloro-1,8-naphthyridin-2-yl)- 1,3-dithiole-4-carboxamide (2.8 g), m.p. 235° C., is thereby obtained.

reactant | 1,3-dithiole-4-carboxylic acid | 4.6 g | S1CSC(=C1)C(=O)O | C4H4O2S2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 4.2 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | acetonitrile | 300 cc | C(C)#N | C2H3N
solvent | water | 4.8 g | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)- 1,3-dithiole-4-carboxamide | 2.8 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1SCSC1 | C12H8ClN3OS2
